US07825265B2
tert-Butyl 1-((4-(1-phenylcyclohexyl)phenoxy)carbonyl)-2-methylpropylcarbamate
To a stirred solution at room temperature of 4-(1-phenylcyclohexyl)phenol (311 mg, 1.23 mmol) in dry THF (2 mL) was added BocValOH (295 mg, 1.36 mmol) dissolved in THF (2 mL). A solution of DIC (231 μL; 1.48 mmol) in THF (2 mL) was added drop wise, which caused precipitation after a few minutes. After 5 min DMAP (166 mg; 1.36 mmol) was added and stirring was continued for 19 h. The reaction mixture was concentrated in vacuo and purified by flash chromatography (eluent: EtOAc (0-10%) in heptane) affording 517 mg (1.14 mmol; 93%) of colourless oil. LC-MS purity (UV/MS): 100/100%, Rt 6.77 min, M+18: 469.53.

reactant | 4-(1-phenylcyclohexyl)phenol | 1.23 mmol, 311 mg | C1(=CC=CC=C1)C1(CCCCC1)C1=CC=C(C=C1)O | C18H20O
reactant | BocValOH | 1.36 mmol, 295 mg | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | DIC | 1.48 mmol, 231 μL | CC(N=C=NC(C)C)C | C7H14N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 1.36 mmol, 166 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 1-((4-(1-phenylcyclohexyl)phenoxy)carbonyl)-2-methylpropylcarbamate | C1(=CC=CC=C1)C1(CCCCC1)C1=CC=C(OC(=O)C(C(C)C)NC(OC(C)(C)C)=O)C=C1 | C28H37NO4
